US04460774
In 100 ml of chloroform were dissolved 2.3 g of ethylenediamine and 11.9 ml of triethylamine, followed by adding thereto 50 ml of a chloroform solution containing 15 g of 4-diethylaminobenzoyl chloride with ice-cooling over a period of 30 minutes. Subsequently, the resulting mixture was subjected to reaction at room temperature for 2 hours, after which 100 ml of water was added to the mixture. The chloroform layer was washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The crystals thus obtained were recrystallized from isopropyl alcohol-diisopropyl ether to obtain 9.8 g (62.4% yield) of N,N'-bis(4-diethylaminobenzoyl)ethylenediamine having a melting point of 166° to 167° C.

reactant | ethylenediamine | 2.3 g | C(CN)N | C2H8N2
reactant | triethylamine | 11.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-diethylaminobenzoyl chloride | 15 g | C(C)N(C1=CC=C(C(=O)Cl)C=C1)CC | C11H14ClNO
reactant | water | 100 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N'-bis(4-diethylaminobenzoyl)ethylenediamine | 9.8 g, 62.4% yield | C(C)N(C1=CC=C(C(=O)NCCNC(C2=CC=C(C=C2)N(CC)CC)=O)C=C1)CC | C24H34N4O2
